US08729078B2
In a 250 mL round-bottomed flask, 7H-pyrrolo[2,3-d]pyrimidine (4.34 g, 36.4 mmol, Eq: 1.00) and N-iodosuccinimide (8.61 g, 38.3 mmol, Eq: 1.05) were combined with acetonitrile (60 ml) to give a light brown suspension. The reaction mixture was stirred for 3 h. The reaction mixture was poured into 100 mL H2O and extracted with EtOAc (3×50 mL). The organic layers were dried over MgSO4 and concentrated in vacuo. The crude material was triturated with diethyl ether (2×25 mL) to give 5-iodo-7H-pyrrolo[2,3-d]pyrimidine (7.58 g, 85%) as orange solid.

reactant | 7H-pyrrolo[2,3-d]pyrimidine | 36.4 mmol, 4.34 g | N1=CN=CC2=C1NC=C2 | C6H5N3
reactant | N-iodosuccinimide | 38.3 mmol, 8.61 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | H2O | 100 mL | O | H2O
product | 5-iodo-7H-pyrrolo[2,3-d]pyrimidine | 7.58 g, 85% | IC1=CNC=2N=CN=CC21 | C6H4IN3
